US09447095B2
To a cold stirring solution of 10 g (52.2 mmol) 6-chloro-2-(methylsulfinyl)pyrimidine-4-amine in 450 ml of DCM, 10 g (56.2 mmol) of N-bromosuccinimide were added, and stirring was continued for 1 hour at room temperature to provide 5-bromo-6-chloro-2-(methylthio)pyrimidine-4-amine, which was used without further purification in the next step (see intermediate 3). The end of the reaction is followed by thin layer chromatography.

reactant | 6-chloro-2-(methylsulfinyl)pyrimidine-4-amine | 52.2 mmol, 10 g | ClC1=CC(=NC(=N1)S(=O)C)N | C5H6ClN3OS
reactant | N-bromosuccinimide | 56.2 mmol, 10 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DCM | 450 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-6-chloro-2-(methylthio)pyrimidine-4-amine | BrC=1C(=NC(=NC1Cl)SC)N | C5H5BrClN3S
